US07109212B2
4-(5-Fluoro-2-hydroxyphenyl)-1-(2-(morpholin-4-ylmethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 38, 80 mg (0.15 mmol) of 4-(5-fluoro-2-methoxyphenyl)-1-(2-(morpholin-4-ylmethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol is mixed with 3.0 ml (3.0 mmol) of a 1 M boron tribromide solution in dichloromethane. After working-up and purification on silica gel with hexane-ethyl acetate (0–100%) as well as ethyl acetate-methanol (0–20%), 53 mg (68% of theory) of the product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-1-(2-(morpholin-4-ylmethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.15 mmol, 80 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CN1CCOCC1)(O)C(F)(F)F)(C)C)OC | C28H33F4N3O3
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(5-Fluoro-2-hydroxyphenyl)-1-(2-(morpholin-4-ylmethyl)quinolin-5-ylamino)-4-methyl-2-(trifluoromethyl)pentan-2-ol | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)CN1CCOCC1)(O)C(F)(F)F)(C)C)O | C27H31F4N3O3
